US05374641
A portion of 144 mg of 60% sodium hydride were suspended in 15 ml of dimethylformamide and cooled to 0° C., followed by dropwise addition of 1.34 g of N-[3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzene sulfonamide, and then followed by addition of 391 mg of ethyl chlorocarbonate. After stirring at room temperature for four hours, the reaction mixture was poured into water. The aqueous phase was extracted with ethyl acetate, and the organic phase was washed in saturated aqueous sodium chloride and dried over magnesium sulfate, to distill off the solvent. The obtained residue was subjected to chromatography on a silica gel column, and from a fraction eluted with methylene chloride was obtained 1.49 g of N-ethoxycarbonyl-N-[3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide.

reactant | sodium hydride | 144 mg | [H-].[Na+]
reactant | N-[3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzene sulfonamide | 1.34 g | COCOC1=CC=C(C=C1)CC(CNS(=O)(=O)C1=CC=C(C=C1)Cl)C=1C=NC=CC1 | C22H23ClN2O4S
reactant | ethyl chlorocarbonate | 391 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | water | O | H2O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | N-ethoxycarbonyl-N-[3-(4-methoxymethyloxyphenyl)-2-(3-pyridyl)propyl]-4-chlorobenzenesulfonamide | 1.49 g | C(C)OC(=O)N(S(=O)(=O)C1=CC=C(C=C1)Cl)CC(CC1=CC=C(C=C1)OCOC)C=1C=NC=CC1 | C25H27ClN2O6S
